US04524073
4-Methyl-4-nitro-1-tosyloxypentane
A solution of 4-methyl-4-nitro-1-pentanol (7 gm) in pyridine (40 ml) was cooled in an ice bath and treated with tosyl chloride (19 gm) added in portions over 20 mins. When the addition was complete the mixture was stirred at room temperature for 1 hr. Water (20 ml) was then added and the mixture stirred for 15 mins. The mixture was poured into water and extracted twice with ethyl acetate. The ethyl acetate solution was washed successively with water, citric acid solution, water, sodium bicarbonate solution, water and brine. The solution was dried over magnesium sulphate and evaporated. The product was obtained by crystallisation from ether: 60/80 petroleum ether. Yield 8.18 gm.

reactant | 4-methyl-4-nitro-1-pentanol | 7 gm | CC(CCCO)(C)[N+](=O)[O-] | C6H13NO3
reactant | tosyl chloride | 19 gm | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | Water | 20 ml | O | H2O
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 4-Methyl-4-nitro-1-tosyloxypentane | CC(CCCOS(=O)(=O)C1=CC=C(C)C=C1)(C)[N+](=O)[O-] | C13H19NO5S
